US07723333B2
2-Butyl-4-{[4-(difluoromethoxy)benzyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide
The title compound was prepared from 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide and 1-[4-(difluoromethoxy)phenyl]methanamine in a similar manner as described for e.g. Example 6 and 7. 1H NMR (CD3CN) δ 7.46-7.41 (m, 1H), 7.39-7.33 (m, 2H), 7.29-7.25 (m, 2H), 6.98-6.93 (m, 2H), 6.86-6.81 (m, 2H), 6.72 (t, J=74.4 Hz, 1H), 6.48-6.39 (m, 1H), 4.16 (d, J=6.6 Hz, 2H), 3.67 (t, J=7.2 Hz, 2H), 1.81-1.72 (m, 2H), 1.49-1.38 (m, 2H), 0.98 (t, J=7.3 MHz, 3H); Mass spectrum: M+H+ 437.

reactant | 2-butyl-4-chloro-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC=CC=C1)(=O)=O | C13H14ClNO3S
reactant | 1-[4-(difluoromethoxy)phenyl]methanamine | FC(OC1=CC=C(C=C1)CN)F | C8H9F2NO
product | 2-Butyl-4-{[4-(difluoromethoxy)benzyl]amino}-5-phenylisothiazol-3(2H)-one 1,1-dioxide | C(CCC)N1S(C(=C(C1=O)NCC1=CC=C(C=C1)OC(F)F)C1=CC=CC=C1)(=O)=O | C21H22F2N2O4S
